US06583156B1
4-Bromo-N,N-dimethyl-2-quinolineamine
A solution of 2,4-dibromoquinoline (273 mg, 1.0 mmol) in EtOH (15 mL) was treated with aqueous dimethylamine (40%, 0.4 mL, 3 mmol), stirred at room temperature for 16 h, concentrated in vacuo and purified by chromatography [SiO2; heptane-EtOAc (9:1)] to give the product (119 mg, 50%) as a cream solid: IR νmax (Nujol)/cm−1 2924, 2854, 1598, 1546, 1510, 1463, 1379 and 754; NMR δH (400 MHz, CDCl3) 3.21 (6H, s), 7.21 (1H, s), 7.23-7.26 (1H, m), 7.55 (1H, t, J 8.2 Hz), 7.68 (1H, d, J 8.5 Hz) and 7.94 (1H, d, J 7.1 Hz); M/Z 251 (M+H)+.

reactant | 2,4-dibromoquinoline | 1.0 mmol, 273 mg | BrC1=NC2=CC=CC=C2C(=C1)Br | C9H5Br2N
reactant | dimethylamine | 3 mmol, 0.4 mL | CNC | C2H7N
solvent | EtOH | 15 mL | CCO | C2H6O
product | 4-Bromo-N,N-dimethyl-2-quinolineamine | 119 mg, 50% | BrC1=CC(=NC2=CC=CC=C12)N(C)C | C11H11BrN2
